* c:\users\hp\desktop\dc_to_dc_converter\dc_to_dc_converter.cir

.include NMOS-180nm.lib
.include schottky.lib
d1 net-_c1-pad2_ net-_d1-pad2_ 1N5819
l1  net-_d1-pad2_ out 10m
r1  out net-_c1-pad2_ 10
c1  out net-_c1-pad2_ 220u
v2  pulse gnd pulse(0 1 0 0 0 5u 10u)
* u2  out plot_v1
* u1  ? plot_v1
v1 in gnd  dc 5
m1 net-_d1-pad2_ pulse in net-_m1-pad4_ CMOSN W=100u L=100u M=1
v3 net-_m1-pad4_ gnd  dc 1.8
.tran 0.01e-06 40e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(?)
.endc
.end
